US07163938B2
5-Chloro-2-(4-fluorobenzoylamino)-N-(5-chloropyridin-2-yl)-benzamide (General Procedure).
To a solution of 2-amino-5-chloro-N-(5-chloropyridin-2-yl)benzamide (2.82 g, 10 mmol) in methylene chloride (100 mL) and pyridine (3 mL) was added 4-fluorobenzoyl chloride (1.42 mL, 12 mmol) dropwise at 0° C. The reaction mixture was warmed to room temperature and stirred overnight. Water (50 mL) was added; and the mixture was stirred for 30 min before the solids were filtered, washed with saturated sodium bicarbonate (30 mL), water (30 mL), and ether (50 mL), and dried under vacuum to provide the product (3.2 g, 79%) pure enough to use in the next step.

reactant | 2-amino-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 10 mmol, 2.82 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C12H9Cl2N3O
reactant | 4-fluorobenzoyl chloride | 12 mmol, 1.42 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | Water | 50 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-2-(4-fluorobenzoylamino)-N-(5-chloropyridin-2-yl)-benzamide | 3.2 g, 79% | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(C1=CC=C(C=C1)F)=O | C19H12Cl2FN3O2
